Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tegaderm Frame Style / Prinivil / Reglan / Levofloxacin
 
Attending: ___
 
Chief Complaint:
Septic Shock
 
Major Surgical or Invasive Procedure:
Intubation & Extubation
Central Venous Line

 
History of Present Illness:
___ male presenting w/ history of poorly controlled DM, PAD, CAD 
s/p CABG and MI s/p stents, CKD s/p renal tx ___ with b/l Cr 
1.6, DVTs on lifelong Coumadin presenting with sepsis from ___ 
via ___.  
Unresponsive on EMS arrival, ___ stoking, rr 10 SBP 50, 
intubated with 20 Etomidate and 5 Versed (unclear if at ___ 
or by EMS). Improved to 100/38 with NS ___ at ___. Wife 
says this his occurred before, yesterday was alert, oriented but 
fatigued poor po's past few days. Glucose 465, 80 Gent given 
urine dirty looking. K 5.8 CO2 5, 2 amps NaBicarb BUN 96 Cr 4.4. 
Transferred for further management of DKA. 
On arrival to ___, initial vs were:  68 80/45 11 100%. FSBG 
were 400s, hypothermic to ___, very dirty UA. Multiple 
ulcerations with drainage from L tibial deep tissue infection 
and R lower extremity ulcers as well and decubitus ___ back. ACS 
consulted to look for Nec Fasc and they said consult vascular, 
ACS didn't think was nec fasc. 
Received Vanc/Cefepime here, Flagyl ordered. Gent given there. 
Maxxed out on Levophed and starting Vasopressin with MAP 65 with 
CVP ___, CVO2 91%. Given Hydrocort 100 and bair hugger as 
well. Started on Insulin gtt (later d/c'd). 
On the floor, patient intubated/sedated, on .3 Levophed and 
Vasopressin. 

 
Past Medical History:
-DVT (multiple) s/p IVC filter ___ on coumadin for life
-CAD s/p CABG and MI; s/p stents
-Chronic dCHF
-HTN
-DM1 with retinopathy, neuropathy, ESRD, R charcot foot ___ ___
-s/p cadaveric renal transplant ___ ___ on prednisone and
tacrolimus
-ORIF right arm
-chronic foot ulcer
-amputated right toe
-MRSA right foot with osteomyelitis
-C diff colitis ___
-cryptococcal pna ___ ___, now on fluconazole suppressive
therapy
-lung nodules
-PVD
-GERD
-b/l cataract surgery,
-s/p pop artery angioplasty ___ ___
-cellulitis
-chronic osteomyelitis followed ___ ID clinico
-Anemia
-Arteriogram showing R fem/tib and L tib dz and vascular plans 
to consider intervention as outpatient.
 
Social History:
___
Family History:
FAMILY HISTORY:
DM type II ___ father and paternal grandfather. Mother had "heart 

disease".    

 
Physical Exam:
Admission Physical Exam:
Vitals:  98.1, HR 79, 123/23, RR 21, 100% on vent
General: Intubated, sedated  
HEENT: Sclera anicteric, OG tube present
Neck: Normal carotid upstroke.
Lungs: R sided rhonchi, no wheezes, rales  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: foley  
Ext: pulses dopplerable. Diffuse ___ vascular and diabetic 
ulcers. warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 
Discharge Physical Exam:
Tm98.2, BP94-166/38-62, P58-77, R18-20, ___-100RA
General- AOx3, no acute distress, pleasant
HEENT- Sclerae anicteric, Opacification over L eye. MMM
Neck- Supple, RIJ CVL removed, dressing c/d/i over site
Lungs- Breathing comfortably, no accessory muscle use, CTAB 
anteriorly, no w/r/r (unable to sit up or roll)
CV- RRR, no m/r/g 
Abdomen- Soft, NT/ND, normoactive BS
GU- +Foley, unstable sacral decubitus ulcer  
Ext- Bilateral lower extremity superficial ulceration and  
desquamation, right lower extremity with black skin changes over 
 
distal great toe, left lower extremity with black skin changes 
over distal second toe, 2+ pitting edema to sacrum. Erythematous 
poorly defined discoid lesion over antecubital fossa on R UE 
(non tender, not warm) w/ erythema extending superiorly ___ what 
appears to be ecchymosis. 
Neuro- CNs2-12 intact, motor function grossly normal, light 
touch and pinprick sensation reduced over bilateral lower 
extremities 
 
Pertinent Results:
Admission Labs:
___ 01:15PM   WBC-5.4 RBC-2.96* HGB-8.0* HCT-26.3* MCV-89 
MCH-26.9* MCHC-30.3* RDW-19.8*
___ 01:15PM   NEUTS-83.9* LYMPHS-9.5* MONOS-6.0 EOS-0.4 
BASOS-0.1
___ 01:15PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:15PM   ALBUMIN-1.7* CALCIUM-6.7* PHOSPHATE-4.8* 
MAGNESIUM-1.7
___ 01:15PM   ALT(SGPT)-9 AST(SGOT)-12 LD(LDH)-154 
CK(CPK)-82 ALK PHOS-79 TOT BILI-0.2
___ 01:15PM   LIPASE-14
___ 01:15PM   GLUCOSE-289* UREA N-82* CREAT-3.5* SODIUM-144 
POTASSIUM-4.0 CHLORIDE-111* TOTAL CO2-13* ANION GAP-24*
___ 01:15PM   CK-MB-6
___ 01:15PM   cTropnT-0.08*

Discharge Labs:
___ 05:44AM BLOOD WBC-4.1 RBC-3.20* Hgb-8.1* Hct-27.7* 
MCV-87 MCH-25.5* MCHC-29.4* RDW-20.2* Plt ___
___ 05:44AM BLOOD ___ PTT-74.9* ___
___ 05:44AM BLOOD Glucose-163* UreaN-44* Creat-1.3* Na-139 
K-3.8 Cl-109* HCO3-26 AnGap-8
___ 05:44AM BLOOD Calcium-8.2* Phos-2.6* Mg-2.2

Microbiology:
Blood Culture ___ - Pending but NGTD
Urine Culture ___ - Final Result 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML.. 
Sputum (Endotracheal ___ ):
   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      4+   (>10 per 1000X FIELD):   BUDDING YEAST. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS. 

   RESPIRATORY CULTURE (Final ___: 
      HEAVY GROWTH Commensal Respiratory Flora. 
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH. 

   FUNGAL CULTURE (Preliminary): NGTD
      YEAST. 
MRSA Screen ___: Negative
VRE Rectal Swab ___: POSITIVE
Stool C. Diff ___: NEGATIVE

Imaging:
___ Foot XR 
1.  Severe diffuse osteopenia which limits the evaluation of 
osteomyelitis; however, no frank evidence of osteomyelitis.  If 
there is clinical concern, a bone scan or MRI can be obtained. 
2.  Disorganization and abnormal configuration of both feet, 
worse on the 
right, concerning for Charcot arthropathy. 

___ CXR:
FINDINGS: Endotracheal tube tip is still within 1 cm of the 
carina.  Enteric tube seen with tip at the gastric fundus, side 
port not clearly identified on the current exam.  Right IJ line 
___ stable position.  The appearance of the lungs is unchanged 
with hazy bilateral opacities, the streaky left basilar likely 
atelectasis and post-op changes ___ the right mid lung.  
Prominence of the right hilum is unchanged. 

___ Renal Transplant US:
1.  Slight improvement ___ vascular waveforms since ___. 
2.  No hydronephrosis, masses or perinephric fluid collection. 

___ KUB:
There is no gaseous distention of the gut or other evidence of 
bowel 
obstruction.  No free intraperitoneal air is present.  Catheter 
projects over the urinary bladder ___ the lower midline.  
Atherosclerotic and vas deferens calcification is extensive, 
often seen with diabetes.  A caval umbrella filter ends at the 
L1 level.  There is no intra-abdominal mass effect. 

___ Tib/Fib Xray:
1.  Severe diffuse osteopenia which limits the evaluation of 
osteomyelitis; however, no frank evidence of osteomyelitis.  If 
there is clinical concern, a bone scan or MRI can be obtained. 
  
2.  Disorganization and abnormal configuration of both feet, 
worse on the 
right, concerning for Charcot arthropathy. 

EKG:
Atrial fibrillation. Intraventricular conduction delay. 
Prolonged 
Q-T interval. Anterolateral ST-T wave changes may be due to 
ischemia. 
Compared to the previous tracing of ___ ST-T wave changes 
are slightly more prominent ___ the anterior precordial leads. 
Clinical correlation is suggested. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
=============================
___ with h/o CAD s/p CABG and PCI, dHF, ESRD s/p cadaveric renal 
transplant ___ ___, IDDM1, extensive PVD with chronic venous 
ulcers, h/o DVTs s/p IVC filter on warfarin, and new onset AFib, 
who was transferred from ___ ___ for further 
management of uroseptic shock ___ VRE UTI (briefly requiring 
pressors), hypoxemic respiratory failure (s/p extubation), now 
w/ stable/improved clinical status upon discharge.

ACTIVE ISSUES:
=============================
# Uroseptic shock:
On presentation to ___, pt was hypotensive (requiring 
pressors) and hypoxemic (requiring intubation) ___ septic shock. 
Once broad spectrum Abx and IVF resuscitation were started, pt 
rapidly improved and was soon titrated off pressors and 
extubated. 

Septic shock was later found to be ___ VRE UTI (identified from 
OSH UCx) but interestingly, pt improved on empiric broad 
spectrum antibiotics (Vancomycin, Cefepime, Flagyl) that were 
started on admission rior to pathogen identification. Before VRE 
UTI was identified, pt was also evaluated by ACS and vascular 
surgery to determine whether or not his chronic venous stasis 
ulcers were infected. Both services felt that ulcer infection, 
osteomyelitis, or necrotizing fasciitis were highly unlikely. 
GNR identified ___ sputum likely reflected colonization ___ the 
absence of focal infiltrate on serial CXRs. 

Though septic shock was ultimately thought to be ___ VRE UTI 
(identified from OSH UCx), pt improved on empiric broad spectrum 
antibiotics (Vancomycin, Cefepime, Flagyl) prior to pathogen 
identification. Once pathogen was identified as VRE, pt was 
started on PO Linezolid and all other Abx were discontinued. 
After Abx were transitioned, pt maintained normal vital signs, 
afebrile status, and did not have an elevated white blood cell 
count. Given that pathogen was VRE, pt will need to be treated 
for complicated UTI for 14 days with PO linezolid 
(___).

# Respiratory Failure: 
Pt was intubated transiently for respiratory failure presumed 
secondary to septic shock but was successfully extubated s/p 
resucitation and maintained O2 saturation of 98-100% on RA 
thereafter. 

# AoCKI: 
On transfer to ___, Cr was 3.5 from 1.6 at baseline ___ the 
setting of known ESRD s/p cadaveric renal transplant, likely 
reflecting uroseptic shock. Renal transplant ultasound on 
admission demonstrated preserved graft and no evidence of 
obstruction. On transfer to the medicine service, Cr had 
improved to 2.7 with treatment of infection and was 1.3 on day 
of discharge. Over duration of hospitalization, pt continued to 
make appropriate UOP and did not require further IVF. Given 
aggresive fluid resuscitation over hospitalization, pt was 
significantly volume overloaded (compounded by low albumin) and 
was briefly diuresed w/ IV lasix. 

As per renal transplant, he was continued on immunosuppressants 
(tacrolimus/prednisone) and associated infectious prophylaxis 
(fluconazole/Bactrim) therapies. 

#Decompensated dHF: 
Pt has known hx of dHF, as well as CKI as above, and appeared 
volume overloaded on transfer to medicine service that was 
likely ___ aggressive IVF resuscitation for urosepsis and third 
spacing ___ low albumin (1.8). He was diuresed with IV 
furosemide ___ MICU previously, and briefly on the medicine 
service, but was autodiuresing appropriately as Cr improved so 
additional diuresis was held. Fortunately, pt was noted to be 
breathing well w/o orthopnea. He was restarted on home dose 
torsemide upon discharge. 

#Supratherapeutic INR: 
INR peaked ~7.8 on this admission ___ the setting of home 
warfarin use for atrial fibrillation, perhaps compounded by poor 
PO intake and antibiotic use. He received 5mg IV vitamin K prior 
to transfer to the medicine service and was 1.5 the day after. 
Given subtherapeutic INR, hx of DVT (s/p IVC filter) and AFib, 
he was bridged w/ heparin gtt until warfarin became therapeutic 
at his home dose (0.5mg). 

# Normocytic anemia: 
Hct was 28.3 on transfer to medicine service, consistent with 
recent baseline. Anemia was investigated extensively on his 
___ admission, and he was started on ferrous sulfate for 
possible iron deficiency anemia. Initiation of erythropoietin 
was apparently discussed with nephrology and deferred. There had 
been no evidence of active bleeding on this admission despite 
supratherapeutic INR. Pt has no hx of abnormal bleeding. His H/H 
remained stable throughout the remaineder of his hospital course 
and he was continued on home dose ferrous sulfate.

#Chronic venous ulcers and Sacral Ulcer:
Pt has known hx of chronic venous ulcers and was noted to have 
multiple areas of ulceration on upper and lower 
extremities.Before VRE UTI was identified, pt was also evaluated 
by ACS and vascular surgery to determine whether or not his 
chronic venous stasis ulcers were infected. Both services felt 
that ulcer infection, osteomyelitis, or necrotizing fasciitis 
were highly unlikely. Wound care and nutrition consult teams 
evaluated pt and made recommendations which were implemented. 

# IDDM1: 
Pt was continued on glargine and humalog ISS.  

# Atrial fibrillation: 
He was noted on this admission to be ___ rate-controlled atrial 
fibrillation ___ the absence of previous history, that was 
possibly ___ acute infection. CHADS score was 4 and pt had 
another indication for anticoagulation (DVT s/p IVC filter) so 
he was anticoagulated as above. Home dose metoprol was continued 
and pt remained within acceptable rate.

CHRONIC ISSUES:
=============================
# Chronic DVTs s/p IVC filter: 
INR peaked ~7.8 on this admission ___ the setting of home 
warfarin use for atrial fibrillation, perhaps compounded by poor 
PO intake and antibiotic use. He received 5mg IV vitamin K prior 
to transfer to the medicine service and was 1.5 the day after. 
Given subtherapeutic INR, hx of DVT (s/p IVC filter) and AFib, 
he was bridged w/ heparin gtt until warfarin became therapeutic 
at his home dose (0.5mg). 

# CAD s/p CABG and PCI:  
Pt was continued on his home dose metoprolol (briefly held 
during shock), copidogrel, and atorvastatin.

#H/o Cryptococcal pneumonia:
Pt was continued on home dose fluconazole prophylaxis.

# Depression: 
Given need for Linezolid, pt had mirtazipine discontinued 
temporarily as it may predispose pt to serotonin syndrome. Once 
antibiotic course is finished, he may be restarted on 
mirtazipine, following a proper medical evaluation.

# Malnutrition: Alb 1.7
Pt appeared severly malnourished and was noted to have an 
albumin of 1.7 that was likely contributing to hypervolemic 
state and preventing chronic venous ulcers from healing. 
Accordingly nutrition consult was placed and recommendations 
were implemented.

TRANSITIONAL ISSUES:
===========================
1. Given VRE UTI, pt will need to continue a 14 day course of 
Linezolid (___) and be careful to withold 
mirtazapine ___ the meantime as the two drugs may interact and 
cause serotonin syndrome. Mirtazapine may be restarted once 
Linezolid course is finished pending medical evaluation.
2. Pt should continue his warfarin at home dose w/ regular INR 
checks
3. Pt should have labs checked weekly (___) w/ 
results faxed to renal transplant clinic.
4. Pt should recieve ongoing nutrition consult at extended care 
facility to ensure that he is recieving appropriate nutrition to 
ensure that his wounds have the best chance to heal.
5. Pt should recieve ongoing wound care consult at extended care 
facility to ensure that he is recieving appropriate therapy for 
chronic extremity and sacral ulcers.
6. Pt should recieve an outpatient workup of the etiology of his 
new atrial fibrillation.
7. Given poor functional status and multiple co-morbidities pt 
should have continued discussion of code status.

# Communication: Wife (___)
# Code status: FULL (Confirmed)

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO Q8H 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Fluconazole 200 mg PO Q24H 
5. Glargine 6 Units Lunch
Glargine 2 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
6. Metoprolol Tartrate 6.25 mg PO BID 
7. Pantoprazole 20 mg PO Q12H 
8. PredniSONE 5 mg PO DAILY 
9. Senna 1 TAB PO BID:PRN constipation 
10. Tacrolimus 0.5 mg PO Q12H 
11. Travatan Z (travoprost) 0.004 % OS qday 
12. Warfarin 0.5 mg PO DAILY16 
13. Ferrous Sulfate 325 mg PO DAILY 
14. LOPERamide 2 mg PO QID:PRN diarrhea 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation  
16. Sarna Lotion 1 Appl TP QID:PRN pruritus 
17. Torsemide 80 mg PO DAILY 
18. Actonel (risedronate) 35 mg ORAL Q ___ 
19. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
20. Mirtazapine 7.5 mg PO HS 
21. Multivitamins 1 TAB PO DAILY 
22. Nitroglycerin SL 0.3 mg SL PRN chest pain 
23. Tamsulosin 0.4 mg PO HS 
24. Ventolin HFA (albuterol sulfate) 90 mcg/actuation inhalation 
q6h sob 
25. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Fluconazole 200 mg PO Q24H 
7. Metoprolol Tartrate 6.25 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Pantoprazole 20 mg PO Q12H 
10. PredniSONE 5 mg PO DAILY 
11. Senna 1 TAB PO BID:PRN constipation 
12. Tacrolimus 0.5 mg PO Q12H 
13. Warfarin 0.5 mg PO DAILY16 
14. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
15. Nitroglycerin SL 0.3 mg SL PRN chest pain 
16. Polyethylene Glycol 17 g PO DAILY:PRN constipation  
17. Sarna Lotion 1 Appl TP QID:PRN pruritus 
18. Tamsulosin 0.4 mg PO HS 
19. Travatan Z (travoprost) 0.004 % OS qday 
20. Ventolin HFA (albuterol sulfate) 90 mcg/actuation inhalation 
q6h sob 
21. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
22. LOPERamide 2 mg PO QID:PRN diarrhea 
23. Actonel (risedronate) 35 mg ORAL Q ___ 
24. Torsemide 80 mg PO DAILY 
25. Linezolid ___ mg PO Q12H 
26. Glargine 5 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
27. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 capsule(s) by mouth q4h prn Disp #*120 
Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Septic shock ___ UTI
Hypoxemic respiratory failure requiring intubation
ESRD s/p cadaveric renal transplant
Diabetes Mellitus
 
Discharge Condition:
Discharge Condition: Stable
Mental Status: AOx3 (Baseline)
Ambulatory Status: Bed Bound requiring max assist (Baseline)
 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you while you were hospitalized 
at ___. As you know, you were 
admitted due to a very severe urinary tract infection that 
caused your blood sugar to be dangerously high and cause you to 
need mechanical ventilation. Fortunately, with treatment you 
improved markedly, and eventually returned to your baseline.

You will need to continue following up closely with the renal 
transplant doctors and ___ once you are 
discharged. You will also need to continue antibiotics 
(Linezolid) to complete a total 14day course (___).
 
Followup Instructions:
___